US06121201
Conc. sulfuric acid (3 ml) was added to a solution of 1-amino-3-(4-chloro-2-fluoro-5-isopropyloxyphenyl)-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione (4.5 g) in methylene chloride (50 ml) stirred at 0° C. . After 1 hour the mixture was diluted with water and processed. The oily product was chromatographed on silica gel eluting with ethyl acetate:hexane, 2:3, to give 1-amino-3-(4-chloro-2-fluoro-5-hydroxyphenyl)-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione as a pale yellow amorphous solid (3.6 g,). 1H NMR (CDCl3,TMS): 7.27(1H, d, J=8.8 Hz), 6.88(1H, d, J=6.5 Hz), 6.28(1H, s), 5.86(1H, br. s), 4.61(2H, s)

reactant | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | 1-amino-3-(4-chloro-2-fluoro-5-isopropyloxyphenyl)-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione | 4.5 g | NN1C(N(C(C=C1C(F)(F)F)=O)C1=C(C=C(C(=C1)OC(C)C)Cl)F)=O | C14H12ClF4N3O3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-amino-3-(4-chloro-2-fluoro-5-hydroxyphenyl)-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione | NN1C(N(C(C=C1C(F)(F)F)=O)C1=C(C=C(C(=C1)O)Cl)F)=O | C11H6ClF4N3O3
